US07858796B2
(161) 5-phenyl-3-(1-{[3-(phenyloxy)propyl]sulfonyl}-4-piperidinyl)-1H-indole-7-carboxamide
Following the general procedure of example 159, 3-{1-[(3-chloropropyl)sulfonyl]-4-piperidinyl}-5-phenyl-1H-indole-7-carboxamide (40.0 mg, 0.087 mmol), phenol (94 mg, 0.87 mmol), K2CO3 (35.0 mg, 0.35 mmol) and sodium iodide (0.5 mg) were reacted to give the title compound (4.2 mg, 9.3%).

reactant | 3-{1-[(3-chloropropyl)sulfonyl]-4-piperidinyl}-5-phenyl-1H-indole-7-carboxamide | 0.087 mmol, 40.0 mg | ClCCCS(=O)(=O)N1CCC(CC1)C1=CNC2=C(C=C(C=C12)C1=CC=CC=C1)C(=O)N | C23H26ClN3O3S
reactant | phenol | 0.87 mmol, 94 mg | C1(=CC=CC=C1)O | C6H6O
reactant | K2CO3 | 0.35 mmol, 35.0 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | sodium iodide | 0.5 mg | [I-].[Na+]
product | 5-phenyl-3-(1-{[3-(phenyloxy)propyl]sulfonyl}-4-piperidinyl)-1H-indole-7-carboxamide | 4.2 mg, 9.3% | C1(=CC=CC=C1)C=1C=C2C(=CNC2=C(C1)C(=O)N)C1CCN(CC1)S(=O)(=O)CCCOC1=CC=CC=C1 | C29H31N3O4S
